US05948820
(4) 4-Ethyl-4-(2-(4-(4-phenylbutyloxy)phenyl)ethyl)oxazolidin-2-one
Lithium borohydride (0.83 g) was added to a solution of ethyl 2-ethyl-2-methoxycarbonylamino-4-(4-(4-phenylbutyloxy)phenyl)butanoate (5.6 g) in tetrahydrofuran (130 ml) and the mixture was refluxed under heating for 4 hours and allowed to stand at room temperature overnight. 2M Hydrochloric acid (11 ml) and water (400 ml) were added to the reaction mixture under ice-cooling and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated brine, dried over anhydrous sodium sulfate and the solvent was distilled away under reduced pressure. The residue obtained was purified by silica gel column chromatography (eluent; ethyl acetate:n-hexane=1:1) to give the subject compound (3.0 g).

reactant | Lithium borohydride | 0.83 g | [BH4-].[Li+]
reactant | ethyl 2-ethyl-2-methoxycarbonylamino-4-(4-(4-phenylbutyloxy)phenyl)butanoate | 5.6 g | C(C)C(C(=O)OCC)(CCC1=CC=C(C=C1)OCCCCC1=CC=CC=C1)NC(=O)OC | C26H35NO5
reactant | Hydrochloric acid | 2M, 11 ml | Cl | ClH
reactant | water | 400 ml | O | H2O
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | 4-Ethyl-4-(2-(4-(4-phenylbutyloxy)phenyl)ethyl)oxazolidin-2-one | 3.0 g | C(C)C1(NC(OC1)=O)CCC1=CC=C(C=C1)OCCCCC1=CC=CC=C1 | C23H29NO3
